US08372864B2
20.1.2: Methyl[2-(2-bromo-4-fluorophenyl)ethyl](1-propylbutyl)carbamate
1.045 g of N-[2-(2-bromo-4-fluorophenyl)ethyl]heptan-4-amine in solution in 15 cm3 of anhydrous tetrahydrofuran and 502 mg of potassium carbonate are stirred under an inert atmosphere at a temperature in the vicinity of 20° C. 0.28 cm3 of methyl chloroformate is introduced over 10 min using a syringe. The reaction mixture is brought to reflux over 30 h, then filtered through celite and then concentrated using a rotary evaporator under reduced pressure (5 kPa). The residual oil is put into solution in 20 cm3 of dichloromethane. The organic phase is washed successively with 10 cm3 of an aqueous solution of hydrochloric acid (pH=2), then 3×20 cm3 of distilled water. The organic phase is then dried, then concentrated to dryness using a rotary evaporator under reduced pressure (5 kPa). The residual oil is taken up with 10 cm3 of diisopropyl ether. The solid which appears is filtered and the filtrate is concentrated to dryness using a rotary evaporator under reduced pressure (5 kPa) in order to result in 778 mg of methyl[2-(2-bromo-4-fluorophenyl)ethyl](1-propylbutyl)carbamate in the form of a beige oil.

reactant | N-[2-(2-bromo-4-fluorophenyl)ethyl]heptan-4-amine | 1.045 g | BrC1=C(C=CC(=C1)F)CCNC(CCC)CCC | C15H23BrFN
reactant | potassium carbonate | 502 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl chloroformate | 0.28 cm3 | ClC(=O)OC | C2H3ClO2
solvent | tetrahydrofuran | 15 cm3 | O1CCCC1 | C4H8O
product | Methyl[2-(2-bromo-4-fluorophenyl)ethyl](1-propylbutyl)carbamate | COC(N(C(CCC)CCC)CCC1=C(C=C(C=C1)F)Br)=O | C17H25BrFNO2
